US06472180B1
Lys⇄Arg;
Asn⇄Gln; and Phe⇄Trp⇄Tyr.

reactant | Asn | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
reactant | Phe | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | Tyr | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
product | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
